US06833230B2
Synthesis of 1-adamantylethyl Vinyl Ether
36 g (0.2 mol) of 1-admantaneethanol and 72 g (1.0 mol) ethyl vinyl ether were put into a round bottom flask to be dissolved in 100 mL tetrahydrofuran (THF), followed by adding 5 mol % of mercury acetate. Thereafter, the reaction product was reacted for approximately 12 hours under a reflux condition.

reactant | 1-admantaneethanol | 0.2 mol, 36 g | C12(CC3CC(CC(C1)C3)C2)CCO | C12H20O
reactant | ethyl vinyl ether | 1.0 mol, 72 g | C(=C)OCC | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | mercury acetate | C(C)(=O)[O-].[Hg+]
product | 1-adamantylethyl Vinyl Ether | C(=C)OCCC12CC3CC(CC(C1)C3)C2 | C14H22O
